US07074801B1
5-Bromo-2-fluorophenylamine
3.0 g of 5-bromo-2-fluoronitrobenzene, 3.8 g iron powder and 7.3 g ammonium chloride were heated at 80° C. for 2 hours in a solution mixture of 30 mL methanol and 30 mL water. The reaction mixture was filtered through Celite, the methanol was evaporated, and the reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with brine, and the organic layer was dried over anhydrous sodium sulfate and filtered through a column with a small amount of silica gel. The solvent was evaporated to give 2.43 g of the title compound (yellow oil).

reactant | 5-bromo-2-fluoronitrobenzene | 3.0 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | ammonium chloride | 7.3 g | [Cl-].[NH4+]
reactant | methanol | 30 mL | CO | CH4O
catalyst | iron | 3.8 g | [Fe] | Fe
solvent | water | 30 mL | O | H2O
product | 5-Bromo-2-fluorophenylamine | 2.43 g | BrC=1C=CC(=C(C1)N)F | C6H5BrFN
